US07071175B1
Crude 2-acetylsulfanylmethyl-3-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-yl)-2-methyl-propionic acid ethyl ester (1.46 g) was dissolved in TFA (5 mL) and stirred for 60 min. Concentration under reduced pressure followed by chromathography (toluene/EtOAc, 1:1→1:10→0:1) gave slightly impure 2-acetylsulfanylmethyl-3-(6-amino-5-methyl-pyridin-3-yl)-2-methyl-propionic acid ethyl ester (696 mg, 84%)

reactant | 2-acetylsulfanylmethyl-3-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-yl)-2-methyl-propionic acid ethyl ester | 1.46 g | C(C)OC(C(CC=1C=NC(=C(C1)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)(C)CSC(C)=O)=O | C25H38N2O7S
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-acetylsulfanylmethyl-3-(6-amino-5-methyl-pyridin-3-yl)-2-methyl-propionic acid ethyl ester | 696 mg, 84% | C(C)OC(C(CC=1C=NC(=C(C1)C)N)(C)CSC(C)=O)=O | C15H22N2O3S
